US06426396B2
The same operation as in Example 33 was conducted except that 8 g of 1,3-cyclohexadiene was replaced with a mixture of 5 g of 1,3-cyclohexadiene and 3 g of butadiene, to polymerize the monomers. Polymerization advanced promptly to obtain 7.9 g of a cyclohexadiene-butadiene copolymer (yield: 99%).

reactant | 1,3-cyclohexadiene | 8 g | C1=CC=CCC1 | C6H8
reactant | 1,3-cyclohexadiene | 5 g | C1=CC=CCC1 | C6H8
reactant | butadiene | 3 g | C=CC=C | C4H6
product | cyclohexadiene butadiene | 7.9 g, yield: 99% | C1=CC=CCC1.C=CC=C | InChI=1S/C6H8.C4H6/c1-2-4-6-5-3-1;1-3-4-2/h1-4H,5-6H2;3-4H,1-2H2
